US06090852
(b) Methyl-2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}sulfonyl)acetate
To a solution of methyl 2-({methyl[(4-bromophenyl)methyl]amino}sulfonyl)acetate (300 mg, 0.9 mmol) in dimethoxyethane (5 ml) was added 4-cyanophenylboronic acid (Preparation 6, 150 mg, 1.0 mmol), caesium fluoride (290 mg), tri-ortho-tolyl phosphine (28 mg, 0.09 mmol) and bis(benzylideneacetone)palladium(0) (25 mg, 0.04 mmol) and the mixture was heated to reflux for 1 hour under an atmosphere of nitrogen. The mixture was cooled to ambient temperature, diluted with dichloromethane (30 ml) and washed with water. The organic layer was dried (Na2SO4), the solvent was evaporated under reduced pressure and the residue was purified by flash chromatography on silica gel (hexane/ethyl acetate 2:1 as eluent) to give the titled compound as a pale yellow low melting solid (230 mg).

reactant | methyl 2-({methyl[(4-bromophenyl)methyl]amino}sulfonyl)acetate | 0.9 mmol, 300 mg | CN(S(=O)(=O)CC(=O)OC)CC1=CC=C(C=C1)Br | C11H14BrNO4S
reactant | 4-cyanophenylboronic acid | 1.0 mmol, 150 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | caesium fluoride | 290 mg | [F-].[Cs+]
reactant | tri-ortho-tolyl phosphine | 0.09 mmol, 28 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Methyl-2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}sulfonyl)acetate | COC(CS(=O)(=O)N(CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C)=O | C18H18N2O4S
